Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
acetaminophen / shellfish derived
 
Attending: ___.
 
Chief Complaint:
SAH, found down
 
Major Surgical or Invasive Procedure:
___ EVD placed at OSH
___ Balloon assisted coiling of L vertebrobasilar artery 
aneurysm
___ Angio for chemical vasorelaxation (nitro, verapamil)
___ Balloon angioplasty M1 

 
History of Present Illness:
Eu ___, ___ (AKA ___ is a ___ female who was 
found down on her couch unresponsive. EMS was initiated and EMS 
administered Narcan with no effect. She was taken to OSH where 
she was given additional Narcan without effect. Head CT showed 
extensive SAH and Hydrocephalus.  Neurosurgery was consulted and 
they placed a right frontal EVD.  Pt was given Keppra 1g IV and
Mannitol 25g. She was transferred to ___ for Neurosurgical 
evaluation.  Of note her urine was positive for Cocaine. She is 
now s/p EVD placement and balloon assisted coiling of aneurysm. 
Her course has been complicated by
respiratory failure, fevers and severe vasospasm with stroke. 
The patient's code status was ultimately made CMO on ___ and 
she was terminally extubated surrounded by family at the 
bedside. Her time of death was 1700 on ___.

History obtained from: OSH records
Last seen well: unknown
Time of headache onset: unknown
 
Past Medical History:
Chronic etoh use, hypokalemia, anxiety/depression
 
Social History:
___
Family History:
no family history of aneuyrsms 
 
Physical Exam:
--------------
on admission:
--------------
Date and Time of evaluation: ___

___ and ___: 
[ ]Grade I: Asymptomatic, mild headache, slight nuchal rigidity
[ ]Grade II: Moderate to severe headache, nuchal rigidity, no    

   neurological deficit other than cranial nerve palsy.
[x]Grade III: Drowsiness/Confusion, mild focal neurological 
   deficit.
[ ]Grade IV: Stupor, moderate-severe hemiparesis.
[ ]Grade V: Coma, decerebrate posturing.

Fisher Grade:
[ ]1 No hemorrhage evident
[ ]2 Subarachnoid hemorrhage less than 1mm thick
[ ]3 Subarachnoid hemorrhage more than 1mm thick
[x]4 Subarachnoid hemorrhage of any thickness with IVH or  
     parenchymal extension

WFNS SAH Grading Scale:
[ ]Grade I: GCS 15, no motor deficit
[ ]Grade II: GCS ___, no motor deficit
[ ]Grade III: GCS ___, with motor deficit
[x]Grade IV: GCS ___, with or without motor deficit
[ ]Grade V: GCS ___, with or without motor deficit  

___ Coma Scale:
  [x]Intubated   [ ]Not intubated

Eye Opening: 
 [x]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [ ]3 Opens eyes to voice
 [ ]4 Opens eyes spontaneously

Verbal:
 [x]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [ ]4 Confused, disoriented
 [ ]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [ ]5 Localizes to painful stimuli
 [x]6 Obeys commands

 __8__ Total

ICH Score:

GCS
     [ ]2     GCS ___
     [x]1     GCS ___
     [ ]0     GCS ___
     
ICH Volume 
     [x]1     30 mL or Greater
     [ ]0     Less than 30 mL

Intraventricular Hemorrhage
     [x]1     Present
     [ ]0     Absent

Infratentorial ICH
     [ ___     Yes
     [x]0     No

Age
     [ ]1     ___ years old or greater
     [x]0     Less than ___ years old

Total Score: ____3_

BP: 139/97   HR:107     R:18       O2Sats: 100% Intubated

Gen: Intubated, sedation held
HEENT: normocephalic, atraumatic
Neck: Supple
Extrem: Warm and well-perfused. No C/C/E.

Neuro:
Mental status: Intubated
NO eye opening
PERRLA ___ brisk
Nonverbal
Squeezes hand on the right to command, left arm localizes 
briskly
Wiggles bilateral toes to command
Spontaneously lifts legs

Orientation: none.

Sensation: Intact to light touch

--------------
at discharge:
--------------
The patient was pronounced dead at 1700 on ___. On exam, 
patient was pale, no respirations, pulseless, no heart sounds. 
Pupils with anisicoria and fixed, no cranial nerve reflexes.
 
Pertinent Results:
please see OMR for pertinent results 
 
Brief Hospital Course:
___ is a ___ year old woman who found down with 
aneurysmal subarachnoid hemorrhage. CTA revealed aneurysm at the 
left vertebrobasilar junction. Urine was positive for cocaine on 
admission. Her course was complicated by respiratory failure, 
infection, severe vasospasm and stroke. The patient's code 
status was ultimately changed to comfort measures only on 
___ and she was terminally extubated. Time of death 1700 on 
___.

#aSAH
She was admitted to ICU for close monitoring. ___ placed for 
strict SBP <140. She was started on Nimodipine 60q4 for 
vasospasm prophylaxis and started on IVF @100cc/hr. EVD was 
placed at OSH and was kept open at 15. Post-EVD placement, small 
tract hematoma noted at EVD site. CSF was sent for culture upon 
admission to ___ and was negative. On ___ she was taken to 
angio suite and underwent cerebral angiogram for balloon 
assisted coiling of aneurysm. Her groin was perclosed and the 
patient remained flat x2 hours. Post-procedure, the EVD was 
dropped to 10 above the tragus. On ___, the patient was not 
following commands; she was simultaneously febrile to 103 and 
EEG was placed to rule out seizures. EEG was negative for 
epileptiform seizures on ___ with generalized slowing 
consistent with encephalopathy. NCHCT obtained on ___ was 
stable. CTA head was completed on ___ which showed patient 
in severe vasospasm, patient was started on pressors to maintain 
SBP >140.  EEG was discontinued on ___ given no seizure 
activity. EVD was raised to 15 on ___. Nimodipine was held due 
to worsening hypotension. TCDs ___ showed diffuse vasospasm. 
Head CT showed large territory left hemispheric infarct. She was 
taken to angio with unsuccessful attempted balloon angioplasty, 
and received verapamil and nitro for vasorelaxation. Please see 
report in OMR for full details. She continued to receive triple 
vasopressors to maintain SBP 180-200. She was also started on 
milrinone. CT head on ___ showed stable infarcts. She was taken 
back to angio suite on ___ for balloon angioplasty for 
treatment of her vasospasm. MRI was obtained on ___ which 
confirmed acute infarcts in the L MCA and L PCA territories. She 
continued on vasopressors and milrinone through ___. Dr. ___ 
met with the patient's son ___ on ___ and discussed prognosis 
and goals of care. The decision was made to transition to 
comfort measures only. The family was waiting for the patient's 
mother to visit prior to terminal extubation. The patient was 
terminally extubated at 3pm on ___. The patient was pronounced 
with time of death 1700 on ___.

#Fevers
The patient was febrile to 103 on ___. She was pancultured, 
including repeating CSF cultures. She was treated with IV 
Tylenol and was started on broad spectrum antibiotics ___ 
including vancomycin, flagyl, and cefepime. She was pan cultured 
again on ___. C diff PCR was positive and she was started on 
vanco and flagyl. Antibiotics were discontinued on ___ with the 
change in her code status to CMO.

#Acute respiratory failure
The patient was intubated for airway protection. The patient was 
tachypneic on ___ and remained ventilated, requiring 
increased sedation for vent synchrony. Worsening respiratory 
status on ___ requiring increased sedation. She remained on the 
ventilator-dependent throughout her hospitalization. She was 
terminally extubated on ___.

#ETOH withdrawal
The patient was started on IV thiamine, folic acid and 
multivitamin for alcohol withdrawal. She was started on precedex 
on ___ for agitation. She is s/p phenobarb taper. 

#Pulmonary nodules
The patient was incidentally found to have pulmonary nodules 
bilaterally measuring up to 3-4 mm on her CTA. For incidentally 
detected multiple solid pulmonary nodules 
smaller than 6mm, no CT follow-up is recommended in a low-risk 
patient, and an optional CT follow-up in 12 months is 
recommended in a high-risk patient. Follow-up does not pertain 
to this case given patient now CMO.

AHA/ASA Core Measures for SAH/ ICH:

1. Water swallow test before any PO intake? [x]Yes []No
2. DVT prophylaxis administered? [ ]Yes []No
3. Smoking cessation counseling given? [x]Yes []No [Reason: 
()non-smoker  ()unable to participate]
4. Stroke Education given in written form? [x]Yes []No
5. Assessment for rehabilitation and/or rehab services 
considered? [x]Yes []No

 
Stroke Measures:

1.     Was ___ performed within 6hrs of arrival? [x]Yes 
[]No  [Reason:]
2.     Was ICH scoring performed within 6hrs of arrival? [x]Yes 
[]No  [Reason:]
3.     Was a Procoagulant Reversal agent given? []Yes [x]No  
[Reason:not anticoagulated]
4.     Was Nimodipine given? [x]Yes []No [Reason:]

 
Medications on Admission:
listed as : Buspirone 15mg BID, Lamotrigine 100mg daily, 
olanzapine 5mg daily ----> Could not be confirmed by family 
 
Discharge Medications:
none
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
aneurysmal subarachnoid hemorrhage 
 
Discharge Condition:
The patient has expired.
 
Discharge Instructions:
The patient has expired.
 
Followup Instructions:
___